US06002008
6-Amino-4-(3-bromo-phenylamino)-8-methoxy-quinoline-3-carbonitrile
A mixture of 2.15 g (5 mmol) of 4-[(3-bromophenyl)amino]-8-methoxy-6-nitro-quinoline-3-carbonitrile, 1.95 g (37.5 mmol) of ammonium chloride, and 1.26 g (22.5 mmol) iron was stirred at reflux in 40 ml of water and 40 ml of methanol for 3 hours. The mixture was diluted with 500 ml of hot ethyl acetate and the hot mixture was filtered. The filtration was washed with saturated sodium chloride solution and then the organic layer was dried over sodium sulfate. The solution was concentrated and 0.43 of dark yellow solid was collected: mass spectrum (electrospray, m/e): M+H 368.9 and 370.9.

reactant | 4-[(3-bromophenyl)amino]-8-methoxy-6-nitro-quinoline-3-carbonitrile | 5 mmol, 2.15 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=C(C=C12)[N+](=O)[O-])OC)C#N | C17H11BrN4O3
reactant | ammonium chloride | 37.5 mmol, 1.95 g | [Cl-].[NH4+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 22.5 mmol, 1.26 g | [Fe] | Fe
product | 6-Amino-4-(3-bromo-phenylamino)-8-methoxy-quinoline-3-carbonitrile | NC=1C=C2C(=C(C=NC2=C(C1)OC)C#N)NC1=CC(=CC=C1)Br | C17H13BrN4O
